US04139617
19-Hydroxy-1β,2β-methylene-4-androstene-3,17-dione, zinc powder, and acetic acid are heated to their reflux temperature for a period of about 1 hour. Upon cooling of the reaction mixture, benzene is added and the resulting suspension filtered. The filtrate is evaporated to dryness under vacuum and the residue remaining is chromatographed on a silica gel column and eluted with methylenechloride. The eluate is evaporated to dryness and the residue is crystallized from an acetone-hexane solution to yield 19-hydroxy-1β-methyl-4-androstene-3,17-dione.

reactant | 19-Hydroxy-1β,2β-methylene-4-androstene-3,17-dione | OC[C@]12[C@H]3[C@@H](C(C=C1CC[C@H]1[C@@H]4CCC([C@@]4(C)CC[C@H]21)=O)=O)C3 | C20H26O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | zinc | [Zn] | Zn
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 19-hydroxy-1β-methyl-4-androstene-3,17-dione | OC[C@]12[C@@H](CC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O)C | C20H28O3
